US06165941
3-Chloro-2-(4-hydroxyphenyl)-5-trifluoromethylpyridine
A suspension of 10.0 g (34.8 mmol) of 3-chloro-2-(4-methoxyphenyl)-5-trifluoromethylpyridine in 50 ml of 47% strength hydrobromic acid was heated at reflux temperatures for two hours. After cooling, the reaction mixture was diluted with 200 ml of water. After cooling for a few hours, the resulting crystals were separated off, washed with water and dried under reduced pressure. Yield: 8.0 g (84%) of colorless crystals.

reactant | 3-chloro-2-(4-methoxyphenyl)-5-trifluoromethylpyridine | 34.8 mmol, 10.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC=C(C=C1)OC | C13H9ClF3NO
reactant | hydrobromic acid | Br | BrH
solvent | water | 200 ml | O | H2O
product | 3-Chloro-2-(4-hydroxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC=C(C=C1)O | C12H7ClF3NO
